US05268389
Ethyl 2-chloro-5-[[(2-ethyl-5,6-dihydro-1,4-oxathiin-3-yl)carbonyl]amino]benzoate (Compound 11)
Thionyl chloride (4.0 g, 0.034 mole) was added to a stirred mixture of 2-ethyl-5,6-dihydro-1,4-oxathiin-3-carboxylic acid (5.9 g, 0.034 mole) and methylene chloride (100 ml). The mixture was warmed to about 35° C. for 3 hours, then evaporated under reduced pressure. The residue, crude 2-ethyl-5,6-dihydro-1,4-oxathiin-3-carbonyl chloride, was dissolved in methylene chloride (100 ml), and the ice-chilled solution treated dropwise with a solution of ethyl 5-amino-2-chlorobenzoate (6.8 g, 0.034 mole) and triethylamine (3.7 g, 0.037 mole) in methylene chloride (100 ml). The reaction mixture was stirred overnight at room temperature and then worked up by washing in sequence with water, dilute hydrochloric acid, water, 2% sodium hydroxide and water. Evaporation of the solvent left an oil, which solidified. After recrystallization from ethanol (30 ml) the product (7.0 g, 58% yield) melted at 86°-88° C.

reactant | Thionyl chloride | 0.034 mole, 4.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-ethyl-5,6-dihydro-1,4-oxathiin-3-carboxylic acid | 0.034 mole, 5.9 g | C(C)C=1OCCSC1C(=O)O | C7H10O3S
reactant | ethyl 5-amino-2-chlorobenzoate | 0.034 mole, 6.8 g | NC=1C=CC(=C(C(=O)OCC)C1)Cl | C9H10ClNO2
reactant | triethylamine | 0.037 mole, 3.7 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | Ethyl 2-chloro-5-[[(2-ethyl-5,6-dihydro-1,4-oxathiin-3-yl)carbonyl]amino]benzoate | 7.0 g, 58% yield | ClC1=C(C(=O)OCC)C=C(C=C1)NC(=O)C1=C(OCCS1)CC | C16H18ClNO4S
